data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_360728_0,[C:1](/[C:3](=[C:5](\[C:2]([H:14])([H:15])[H:16])[H:13])[O:6][H:8])(/[C:4](=[N:7]\[H:9])[H:12])([H:10])[H:11]>>[C:1](=[C:3]([C:5]([C:2]([H:14])([H:15])[H:16])(/[C:4](=[N:7]\[H:9])[H:12])[H:13])[O:6][H:8])([H:10])[H:11],70.66842249999695
MR_363155_1,[C:1]([O:3][O:4][C:2]([O:6][H:7])([H:9])[H:10])(=[O:5])[H:8]>>[C:1]([O:3][O:4][C:2](=[O:6])[H:10])([O:5][H:7])([H:8])[H:9],56.73415750000771
MR_498537_0,[C:1]1([C:4]([H:14])([H:15])[H:16])([C:5]([H:17])([H:18])[H:19])[C:2]([C:3]2([H:12])[C:8]([C:6]([H:20])([H:21])[H:22])=[C:9]2[H:13])([H:11])[C:7]1=[O:10]>>[C:1]1([C:4]([H:14])([H:15])[H:16])([C:5]([H:17])([H:18])[H:19])[C:2]([H:11])=[C:3]([H:12])[C:9]([H:13])=[C:8]([C:6]([H:20])([H:21])[H:22])[C:7]1=[O:10],40.07779750000694
MR_118887_1,[C:1]([C:4]([C:2]([C:3]([H:13])([H:14])[H:15])([H:11])[H:12])=[O:7])([O:5][H:8])([O:6][H:9])[H:10]>>[C:1]([C:4]([C:2]([C:3]([H:13])([H:14])[H:15])([H:11])[H:12])([O:7][H:9])[H:10])([O:5][H:8])=[O:6],42.39954749999484
MR_191829_1,[C:1]1([N:5]([H:10])[H:11])([H:9])[N:3]([C:2]([H:13])([H:14])[H:15])[N:4]([H:8])[C:6]([H:12])=[N:7]1>>[C:1](\[N:5]([H:10])[H:11])(=[N:7]/[C:6]1([H:12])[N:3]([C:2]([H:13])([H:14])[H:15])[N:4]1[H:8])[H:9],62.51845249999249
MR_220301_1,[C:1](\[C:3](/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:7]/[H:9])([N:6]([H:8])[H:11])[H:13])(=[N:5]/[H:10])[H:12]>>[C:1]([C:3](/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:7]/[H:9])=[N:6]/[H:8])([N:5]([H:10])[H:11])([H:12])[H:13],48.96821749999674
MR_58160_0,[C:1](/[C:2]([N:3]([H:9])[H:10])=[N:6]/[O:4][H:7])([O:5][H:8])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C@:2]([N:3]([H:9])[H:10])([N:6]([O:4][H:7])[H:8])[O:5]1,41.89001749999719
MR_47646_0,[C:1]([C:2]([O:7][H:9])([H:12])[H:13])([N:5]([C:3]([H:14])([H:15])[H:16])[C:6]([C:4]([H:17])([H:18])[H:19])=[O:8])([H:10])[H:11]>>[C:1]([C:2](=[O:7])[H:12])([N:5]([C:3]([H:14])([H:15])[H:16])[C:6]([C:4]([H:17])([H:18])[H:19])([O:8][H:9])[H:13])([H:10])[H:11],59.35773499998263
MR_498885_0,[C:1](/[C:3](=[N:2]/[H:7])[C:6]([N:4]([H:8])[H:9])([N:5]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1](/[C:3]([N:2]([N:4]([H:8])[H:9])[H:7])=[C:6](\[N:5]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15],69.84137749998055
MR_322034_2,[C:1]([N:3]([C:4]([C:2]([H:12])([H:13])[H:14])=[O:7])[H:10])([O:5][H:8])([O:6][H:9])[H:11]>>[C:1]([N:3]([C:4]([C:2]([H:12])([H:13])[H:14])([O:6][H:9])[O:7][H:8])[H:10])(=[O:5])[H:11],48.166899999986725
MR_60526_1,[C:1]([C:5]([C:2]([H:15])([H:16])[H:17])=[C:4]([N:3]([C:7](=[C:8]([H:19])[H:20])[H:12])[H:9])[N:6]([H:10])[H:11])([H:13])([H:14])[H:18]>>[C:1]([C:5]([C:2]([H:15])([H:16])[H:17])(/[C:4](=[N:3]/[H:9])[N:6]([H:10])[H:11])[C:7](=[C:8]([H:19])[H:20])[H:12])([H:13])([H:14])[H:18],58.7340000000593
MR_197642_2,[C:1]([C:2](=[O:7])[H:11])([C:3]([H:15])([H:16])[H:17])([C:4]([H:14])([H:18])[H:19])[C:5]([C:6](=[O:9])[H:13])([O:8][H:10])[H:12]>>[C:1]([C:2]([C:6](=[O:9])[H:13])([O:7][H:10])[H:11])([C:3]([H:15])([H:16])[H:17])([C:4]([H:14])([H:18])[H:19])[C:5](=[O:8])[H:12],55.53814250003114
MR_192867_1,[C:1]([C:2]([H:16])([H:17])[H:18])([C:3]([H:15])([H:19])[H:20])(/[C:4](=[C:7](/[N:6]([H:12])[H:13])[H:14])[O:8][H:9])[N:5]([H:10])[H:11]>>[C:1]([C:2]([H:16])([H:17])[H:18])([C:3]([H:15])([H:19])[H:20])=[C:4]([C:7]([N:5]([H:10])[H:11])([N:6]([H:12])[H:13])[H:14])[O:8][H:9],65.23301749998737
MR_201439_1,[C:1]([C:4]([C:3]([C:2]([O:5][H:9])=[O:6])=[O:7])=[O:8])([H:10])([H:11])[H:12]>>[C:1]([C:4]([C:2]1([O:5][H:9])[C:3](=[O:7])[O:6]1)=[O:8])([H:10])([H:11])[H:12],56.63940499999725
MR_725_0,[C:1]([C:2](=[C:3]([H:9])[H:10])[H:8])([O:4][H:5])([H:6])[H:7]>>[C:1]1([H:6])([H:7])[C:2]([C:3]([H:5])([H:9])[H:10])([H:8])[O:4]1,67.35522250001537
MR_230104_2,[C:1](/[C:5]([C:2]([N:4]([C:3]([H:17])([H:18])[H:19])[H:10])([H:15])[H:16])=[N:8]\[H:14])([N:6]([H:12])[H:13])([O:7][H:9])[H:11]>>[C:1]([C:5]([C:2]([N:4]=[C:3]([H:18])[H:19])([H:15])[H:16])([N:8]([H:14])[H:17])[H:10])([N:6]([H:12])[H:13])([O:7][H:9])[H:11],68.9302474999981
MR_361549_2,[C:1]([N:3]([C:2]([H:13])([H:14])[H:15])[H:12])([C:4]([O:7][H:11])=[O:8])([O:5][H:9])[O:6][H:10]>>[C:1]([C:4]([N:3]([C:2]([H:13])([H:14])[H:15])[H:12])([O:7][H:11])[O:8][H:9])(=[O:5])[O:6][H:10],39.63415499994994
MR_581480_0,[C:1]([C:2]([C:4]([C:5]([C:3]([H:20])([H:21])[H:22])[N:8]([H:14])[H:15])[N:7]([H:12])[H:13])([H:18])[H:19])([O:9][N:6]([H:10])[H:11])([H:16])[H:17]>>[C:1]1([H:16])([H:17])[C:2]([H:18])([H:19])[C:4]1([C@:5]([C:3]([H:20])([H:21])[H:22])([N:8]([H:14])[H:15])[O:9][N:6]([H:10])[H:11])[N:7]([H:12])[H:13],67.10987000002845
MR_584086_0,[C:1](/[C:2]([C:4]([H:18])([H:19])[H:20])=[N:7]/[H:14])([C:3]([H:15])([H:16])[H:17])([C:5]([N:6]([H:11])[H:12])([O:8][H:13])[H:10])[H:9]>>[C:1]([C:2]([C:4]([H:18])([H:19])[H:20])([N:7]([H:13])[H:14])[H:10])([C:3]([H:15])([H:16])[H:17])([C:5]([N:6]([H:11])[H:12])=[O:8])[H:9],47.76216249997418
MR_3847_0,[C:1]([C@:2]1([H:10])[C:3]([H:11])([H:12])[O:4]1)([O:5][H:7])([O:6][H:8])[H:9]>>[C:1](=[C:2]([C:3]([O:4][H:9])([H:11])[H:12])[H:10])([O:5][H:7])[O:6][H:8],65.85298750002721
